* source M165D25
M_M1         N00111 N00486 0 0 MbreakN           
D_D1         0 N00111 Dbreak 
R_R1         N00460 N00111  2.7M TC=0,0 
R_R2         N00460 N00472  750k TC=0,0 
R_R3         N00472 N00486  2 TC=0,0 
R_R4         N00502 N00486  680k TC=0,0 
X_R5         N00502 0 0 POT PARAMS: SET=0.5 VALUE=1M
C_C1         0 N00460  10n  TC=0,0 
C_C2         N00581 N00111  47n  TC=0,0 
C_C3         0 N00581  47n  TC=0,0 
V_V1         N00419 0 24Vdc
C_C4         N00581 N00111  2.5p  TC=0,0 
C_C5         N012780 N012781  1  TC=0,0 
R_R6         N00581 N012780  640 TC=0,0 
L_L3         N00111 N012781  2.5  
L_L2         N00581 N00472  5uH  
L_L4         N00111 N00419  10uH  
