* source PIEZO_113
X_X1         N00443 N00690 N00187 N00156 N02408 N00690 N02415 N00156 555D
+  PARAMS: MAXFREQ=3E6
X_U1         N00152 0 N00156 awbl78l05c PARAMS:                   
X_M1         N03130 N002141 0 IRLZ44N
C_C5         0 N00443  100n  TC=0,0 
C_C6         0 N00690  10n  TC=0,0 
R_R2         N00187 N002141  100 TC=0,0 
R_R3         0 N002141  10k TC=0,0 
C_C7         N00690 0  10n  TC=0,0 
V_V1         N00152 0 26Vdc
R_R4         0 N02408  100M TC=0,0 
R_R5         0 N02415  100M TC=0,0 
R_R6         N00690 N00187  5k TC=0,0 
L_L1         N00152 N03137  10uH  
C_C8         N03137 N03130  100u  TC=0,0 
